US07259266B2
Step 2. Preparation of 3-(ethoxycarbonyl)-8-methyl-2-(trifluoromethyl)-2H-chromene-6-carboxylic acid
A mixture of 3-formyl-4-hydroxy-5-methylbenzoic acid (8.8 g, 48.89 mmole), K2CO3 (13.49 g, 97.78 mmole), triethylamine (19.79 g, 195.56 mmole), and ethyl 4,4,4-trifluorocrotonate (32.85 g, 195.56 mmole) in anhydrous DMSO (20.0 mL) was heated to 90° C. under a dry N2 atmosphere for 18 hrs. The mixture was then cooled, poured into 2.0 N HCl (100 ml), and extracted with EtOAc (2×100 mL). The combined extracts were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated in vacuo to give an oily solid. Redissolved in acetone to givea white precipitat, which was filtered and dried on high vacuum (7.2 g, 51%). GCMS m/z 330.0 (M+). 1H NMR (DMSO/400 MHz) 12.99 (s, 1H), 8.11 (s, 1H), 8.06 (s, 1H), 7.94 (s, 1H), 6.19 (q, 1H, J=7.0 Hz), 4.35 (m, 2H), 2.31 (s, 3H), 1.36 (m, 3H).

reactant | 3-formyl-4-hydroxy-5-methylbenzoic acid | 48.89 mmole, 8.8 g | C(=O)C=1C=C(C(=O)O)C=C(C1O)C | C9H8O4
reactant | K2CO3 | 97.78 mmole, 13.49 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triethylamine | 195.56 mmole, 19.79 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4,4,4-trifluorocrotonate | 195.56 mmole, 32.85 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | HCl | 2.0 N, 100 ml | Cl | ClH
solvent | DMSO | 20.0 mL | CS(=O)C | C2H6OS
solvent | acetone | CC(=O)C | C3H6O
product | 3-(ethoxycarbonyl)-8-methyl-2-(trifluoromethyl)-2H-chromene-6-carboxylic acid | C(C)OC(=O)C=1C(OC2=C(C=C(C=C2C1)C(=O)O)C)C(F)(F)F | C15H13F3O5
